US07732446B1
As described in example 1, 57 mg of {6,8-dimethoxy-4-[methyl-(2-pyridin-2-yl-ethyl)-carbamoyl]-isoquinolin-1-ylmethyl}-carbamic acid tert-butyl ester was treated with HCl in EtOAc to give 74 mg (>100%) of 1-aminomethyl-6,8-dimethoxy-isoquinoline-4-carboxylic acid methyl-(2-pyridin-2-yl-ethyl)-amide hydrochloride. MS: APCI (M+H) calc'd for C21H24N4O3+H 381.4; found 381.2.

reactant | {6,8-dimethoxy-4-[methyl-(2-pyridin-2-yl-ethyl)-carbamoyl]-isoquinolin-1-ylmethyl}-carbamic acid tert-butyl ester | 57 mg | C(C)(C)(C)OC(NCC1=NC=C(C2=CC(=CC(=C12)OC)OC)C(N(CCC1=NC=CC=C1)C)=O)=O | C26H32N4O5
reactant | HCl | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-aminomethyl-6,8-dimethoxy-isoquinoline-4-carboxylic acid methyl-(2-pyridin-2-yl-ethyl)-amide hydrochloride | 74 mg, >100% | Cl.CN(C(=O)C1=CN=C(C2=C(C=C(C=C12)OC)OC)CN)CCC1=NC=CC=C1 | InChI=1S/C21H24N4O3.ClH/c1-25(9-7-14-6-4-5-8-23-14)21(26)17-13-24-18(12-22)20-16(17)10-15(27-2)11-19(20)28-3;/h4-6,8,10-11,13H,7,9,12,22H2,1-3H3;1H
